US07199154B2
Step 4: ethyl (2Z)-4-{[(4-bromobutoxy)carbonyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
A solution of 5 mmol of (2Z)-4-{[(4-bromobutoxy)carbonyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid with 3 mL of EtI in 30 mL of DMF was stirred with 5 mmol of K2CO3 at rt for 30 min. The reaction was quenched with sat. NH4Cl/H2O, extracted with EtOAc, Dried over Na2SO4, evaporated, and purified by flash chromatography (5–50% EtOAc/hexane) to afford 2.7 g of the titled compound. 1H NMR (acetone-d6, 500 MHz): δ 7.80 (d, 2 H), 7.48 (d, 2 H), 7.22–7.17 (m, 3 H), 7.15–7.08 (m, 2 H), 5.30 (s, 2 H), 4.32 (m, 4 H), 3.54 (t, 2 H), 3.12 (s, 3 H), 1.95–1.84 (m, 2 H), 1.83–1.70 (m, 2 H) 1.31 (t, 3 H).

reactant | (2Z)-4-{[(4-bromobutoxy)carbonyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 5 mmol | BrCCCCOC(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C22H23BrO7S
reactant | EtI | 3 mL | C(C)I | C2H5I
reactant | K2CO3 | 5 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | ethyl (2Z)-4-{[(4-bromobutoxy)carbonyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 2.7 g | BrCCCCOC(=O)OC\C(=C(/C(=O)OCC)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C24H27BrO7S
